US09102591B2
2-chloro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2-chlorobenzoic acid and 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=448.1, tR (minutes, Method F)=2.95

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | FC1(CCC(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F)F | C13H16F5N3
product | 2-chloro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)C2CCC(CC2)(F)F)C=CC=C1 | C20H19ClF5N3O
